US07781591B2
A mixture of 5-iodo-4[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile (100 mg, 0.27 mmol), 2-[3-(2-methoxyethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (98 mg, 0.35 mmol) and tetrakis(triphenylphosphine)palladium(0) (16 mg, 0.014 mmol) in DME (6 mL) and saturated aqueous NaHCO3 (4 mL) was heated at 95° C. for 2 h, cooled to room temperature and partitioned between dichloromethane and water. The organic phase was dried over Na2SO4, filtered, and concentrated in vacuo, and the residue was purified by flash column chromatography (MeOH/CH2Cl2, 1% to 5%) to provide 71 mg (66%) of 5-[3-(2-methoxyethoxy)phenyl]-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile as a tan solid. HPLC retention time: 8.3 min.(g); MS: 399.3 (M+H); melting range: 158-160° C.; and HRMS: 399.18291.

reactant | 5-iodo-4[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 0.27 mmol, 100 mg | IC=1C=NC=C(C#N)C1NC=1C(=C2C=CNC2=CC1)C | C15H11IN4
reactant | 2-[3-(2-methoxyethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.35 mmol, 98 mg | COCCOC=1C=C(C=CC1)B1OC(C(O1)(C)C)(C)C | C15H23BO4
solvent | DME | 6 mL | COCCOC | C4H10O2
solvent | NaHCO3 | 4 mL | C(=O)(O)[O-].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.014 mmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[3-(2-methoxyethoxy)phenyl]-4-[(4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 71 mg, 66% | COCCOC=1C=C(C=CC1)C=1C=NC=C(C#N)C1NC=1C(=C2C=CNC2=CC1)C | C24H22N4O2
